US06083881
3-(4-Chloro-2-fluoro-5-isopropoxy-phenyl)-5-diethoxymethyl-1H-pyrazole
The crude 1-(4-chloro-2-fluoro-5-isopropoxy-phenyl)-4,4-diethoxybutane-1,3-dione (Example H7) is initially introduced into 150 ml of dry ethanol. 2.90 g of hydrazine monohydrate are added dropwise at room temperature, while stirring. The mixture is then stirred for 4 hours, while heating under gentle reflux, and is subsequently cooled and the alcohol is removed on a rotary evaporator in vacuo. The residue obtained is partitioned between aqueous sodium bicarbonate solution and ethyl acetate. After extraction by shaking and separation of the phases, the organic phase is washed with water and then dried over sodium sulfate and concentrated. 17.5 g of a dark yellow oil are obtained.

reactant | 1-(4-chloro-2-fluoro-5-isopropoxy-phenyl)-4,4-diethoxybutane-1,3-dione | ClC1=CC(=C(C=C1OC(C)C)C(CC(C(OCC)OCC)=O)=O)F | C17H22ClFO5
reactant | hydrazine monohydrate | 2.90 g | O.NN
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 3-(4-Chloro-2-fluoro-5-isopropoxy-phenyl)-5-diethoxymethyl-1H-pyrazole | 17.5 g | ClC1=CC(=C(C=C1OC(C)C)C1=NNC(=C1)C(OCC)OCC)F | C17H22ClFN2O3
